US07919628B2
To a solution of 0.30 g of 1-(6-chloro-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester in 4 ml 2,2,2-trifluoroethanol containing 5% of water was added 0.55 g sodium methoxide. The reaction was heated to 165° C. for 1 h using a microwave reactor. The reaction was then poured into ice-water, the pH was adjusted to 4 using 2 M hydrochloric acid and the precipitated product was collected by filtration and dried in vacuo yielding 0.22 g of 1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carboxylic acid.

reactant | 1-(6-chloro-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester | 0.30 g | COC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)Cl | C18H14ClNO3
reactant | water | O | H2O
reactant | sodium methoxide | 0.55 g | C[O-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | 2,2,2-trifluoroethanol | 4 ml | FC(CO)(F)F | C2H3F3O
product | 1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carboxylic acid | 0.22 g | FC(COC1=CC=C(C=N1)COC1=C(C=CC2=CC=CC=C12)C(=O)O)(F)F | C19H14F3NO4
